US09376408B2
2″-(((4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-4-methyl-2-oxothiazolidin-3-yl)methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-[1,1′:3′,1″-terphenyl]-4-carboxylic acid
In a microwave vial was placed (4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-3-(2-bromo-5-(trifluoromethyl)benzyl)-4-methylthiazolidin-2-one (20 mg, 0.035 mmol) in N,N-Dimethylacetamide (0.5 ml). The mixture was degassed with N2, then chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (2.78 mg, 3.53 μmol) was added, followed by potassium phosphate tribasic (0.035 ml, 0.071 mmol) and then (4′-(tert-butoxycarbonyl)-4-methoxy-2′-methyl-[1,1′-biphenyl]-3-yl)boronic acid (18.13 mg, 0.053 mmol) (synthesized according to the procedure reported in WO 2012/058187) under a N2 atmosphere. The resulting mixture was stirred at 80° C. for 1 hour. The reaction was diluted with 50% EtOAc in hexane, then was washed with satd. NH4Cl, then brine, and then the organic layer was dried over Na2SO4, filtered and concentrated. The residue was dissolved in 50% TFA in DCM and was stirred at r.t. for 45 min. The reagents were removed, the residue was dissolved in ACN:H2O (3:1) mixture, and was purified by a reverse phase purification system. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers): δ 8.02 (d, J=12.5 Hz, 1H, contains protons of two atropisomers), 7.95 (d, J=8.5 Hz, 1H, contains protons of two atropisomers), 7.84 (d, J=10.5 Hz, 1H, contains protons of two atropisomers), 7.75 (s, 1H), 7.65 (m, 3H), 7.44 (m, 2H), 7.36 (d, J=7.5 Hz, 0.5H), 7.32 (d, J=7.5 Hz, 0.5H), 7.11 (d, J=3.5 Hz, 0.5H), 7.10 (d, J=3.5 Hz, 0.5H), 5.18 (d, J=15.5 Hz, 0.5H), 5.04 (d, J=15.5 Hz, 0.5H), 4.95 (d, J=7.0 Hz, 0.5H), 4.84 (d, J=7.5 Hz, 0.5H), 4.16 (d, J=15.5 Hz, 0.5H), 3.92 (d, 0.5H, one of the doublet peaks merged with a methoxy peak), 3.90 (s, 3H), 3.86 (s, 3H), 3.79 (m, 1H), 2.42 (s, 3H), 2.35 (s, 3H), 2.35 (s, 3H), 0.70 (d, J=6.5 Hz, 3H), 0.63 (d, J=6.5 Hz, 3H). MS ESI calc'd. for C35H26F9NO4 [M+H]+ 727.14. found 728.0. RTA (95% HS): 62 nM.

reactant | (4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-3-(2-bromo-5-(trifluoromethyl)benzyl)-4-methylthiazolidin-2-one | 0.035 mmol, 20 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(S1)=O)CC1=C(C=CC(=C1)C(F)(F)F)Br)C)(F)F | C20H13BrF9NOS
reactant | potassium phosphate tribasic | 0.071 mmol, 0.035 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | (4′-(tert-butoxycarbonyl)-4-methoxy-2′-methyl-[1,1′-biphenyl]-3-yl)boronic acid | 0.053 mmol, 18.13 mg | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)C1=CC(=C(C=C1)OC)B(O)O)C | C19H23BO5
solvent | N,N-Dimethylacetamide | 0.5 ml | CN(C(C)=O)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 3.53 μmol, 2.78 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | 2″-(((4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-4-methyl-2-oxothiazolidin-3-yl)methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-[1,1′:3′,1″-terphenyl]-4-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(S1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C)C)(F)F | C35H26F9NO4S
